US05495048
A solution of 3.9g of (2,6-difluoro-phenyl)-(3-fluoro-4-methoxy-phenyl)-methanone (paragraph Hd)) in 30 ml of acetic acid is stirred with 20 ml of aqueous 62% HBr solution at 125° C., then evaporated, reevaporated with toluene and taken up in ethyl acetate. The organic phase is washed with sat. aqueous NaHCO3 solution and 10% NaCl solution and then dried. 3.6 g of (2,6-difluoro-phenyl)-(3-fluoro-4-hydroxy-phenyl)-methanone MS: m/e 252 (M+), are obtained.

reactant | (2,6-difluoro-phenyl)-(3-fluoro-4-methoxy-phenyl)-methanone | 3.9g | FC1=C(C(=CC=C1)F)C(=O)C1=CC(=C(C=C1)OC)F | C14H9F3O2
reactant | HBr | Br | BrH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | (2,6-difluoro-phenyl)-(3-fluoro-4-hydroxy-phenyl)-methanone | 3.6 g | FC1=C(C(=CC=C1)F)C(=O)C1=CC(=C(C=C1)O)F | C13H7F3O2
